US08486970B2
To a solution of 700 mg of (3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxylic acid, 351 mg of 1-phenylmethanesulfonamide, and 334 mg of DMAP in 10.5 ml of DMF was added 525 mg of WSC/hydrochloride, followed by stirring at room temperature overnight. 0.1 M hydrochloric acid was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, then dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform-methanol), and ethyl acetate and a saturated aqueous sodium hydrogen carbonate solution were then added thereto for liquid separation. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. Ethyl acetate and diisopropyl ether were added thereto, and the precipitated solid was collected by filtration to obtain 33 mg of (3RS,4RS)—N-(benzylsulfonyl)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide as a colorless solid.

reactant | (3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxylic acid | 700 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)O)=O)C1C(CCCC1)NS(=O)(=O)C | C23H24Cl2N2O5S
reactant | 1-phenylmethanesulfonamide | 351 mg | C1(=CC=CC=C1)CS(=O)(=O)N | C7H9NO2S
reactant | WSC hydrochloride | 525 mg | CCN=C=NCCCN(C)C.Cl
reactant | hydrochloric acid | 0.1 M | Cl | ClH
catalyst | DMAP | 334 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 10.5 ml | CN(C)C=O | C3H7NO
product | (3RS,4RS)—N-(benzylsulfonyl)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 33 mg | C(C1=CC=CC=C1)S(=O)(=O)NC(=O)C1C(N(C(C2=CC=CC=C12)=O)C1C(CCCC1)NS(=O)(=O)C)C1=C(C=C(C=C1)Cl)Cl | C30H31Cl2N3O6S2
